US07700637B2
A mixture of the title C compound, 2-hydroxy-6-methyl-4-propoxy-benzoic acid allyl ester (400 mg, 1.6 mmol), the title C compound in Example 11, 4-[2-(4-bromomethyl-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole (595 mg, 1.6 mmol) and potassium carbonate (662 mg, 4.79 mmol) in 15 mL of DMF is stirred at RT overnight. The mixture is partitioned between EtOAc and water. The organic phase is washed with brine, dried over magnesium sulfate, and concentrated under vacuum. The residue is chromatographed on silica gel using 15% EtOAc in hexane as the eluent to obtain 2-methyl-6-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}4-propoxy-benzoic acid allyl ester as an oil: ESI-MS 542 [M+1]+.

reactant | 2-hydroxy-6-methyl-4-propoxy-benzoic acid allyl ester | 1.6 mmol, 400 mg | C(C=C)OC(C1=C(C=C(C=C1C)OCCC)O)=O | C14H18O4
reactant | 4-[2-(4-bromomethyl-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole | 1.6 mmol, 595 mg | BrCC1=CC=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C19H18BrNO2
reactant | potassium carbonate | 4.79 mmol, 662 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-methyl-6-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}4-propoxy-benzoic acid allyl ester | C(C=C)OC(C1=C(C=C(C=C1OCC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)OCCC)C)=O | C33H35NO6
